US06903238B2
Step a) 5-methoxy-2-(4-methoxyphenyl)-1H-inden-1,3(2H)-dione.
3-Amino-5-methoxy-2-(4-methoxyphenyl)-1H-inden-1-one (500 mg, 1.78 mmol), was suspended in a solution of 20% H2SO4 and heated to 120° for 1 h. The reaction was allowed to cool and the residual solid filtered and the filter cake was washed copiously with water and dried in vacuo to give a light white solid (0.5 g, 99% yield, m.p. 163° C.);

reactant | 3-Amino-5-methoxy-2-(4-methoxyphenyl)-1H-inden-1-one | 1.78 mmol, 500 mg | NC1=C(C(C2=CC=C(C=C12)OC)=O)C1=CC=C(C=C1)OC | C17H15NO3
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
product | 5-methoxy-2-(4-methoxyphenyl)-1H-inden-1,3(2H)-dione | 0.5 g, 99% yield | COC=1C=C2C(C(C(C2=CC1)=O)C1=CC=C(C=C1)OC)=O | C17H14O4
